US08030322B2
Preparation 16: (E)-ethyl 2-(5-chloro-6-methoxy-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate (Prep16)
To the solution of 5-chloro-6-methoxy-2,3-dihydro-1H-inden-1-one (Prep15, 12 g, 61.2 mmol) in toluene (240 ml) was added ethyl cyanoacetate (8.3 g, 73.46 mmol), AcOH (48 ml, 0.8 mol) and ammonium acetate (12 g, 0.16 mol). The mixture was stirred for 12 hours at 120° C., checked by TLC, concentrated, filtered and washed with water and ethanol twice and purified by FC to afford 11 g of title compound (y=62%).

reactant | 5-chloro-6-methoxy-2,3-dihydro-1H-inden-1-one | 61.2 mmol, 12 g | ClC=1C=C2CCC(C2=CC1OC)=O | C10H9ClO2
reactant | ethyl cyanoacetate | 73.46 mmol, 8.3 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | AcOH | 0.8 mol, 48 ml | CC(=O)O | C2H4O2
reactant | ammonium acetate | 0.16 mol, 12 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-ethyl 2-(5-chloro-6-methoxy-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate | 11 g, 62% | ClC=1C=C2CC/C(/C2=CC1OC)=C(\C(=O)OCC)/C#N | C15H14ClNO3
